US06630471B1
b) 6-Chloro-7-(1,1-dimethylethyl)-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 3,6-dichloro-4-(1,1-dimethylethyl)pyridazine (20 g, 0.097 mol), 2-fluorobenzhydrazide (22.6 g, 0.145 mol) and triethylamine hydrochloride (20 g, 0.0145 mol) in dioxan (1.2 l) was stirred and heated at reflux under a stream of nitrogen for 4 days. Upon cooling the volatiles were removed in vacuo and the residue was triturated with dichloromethane (200 ml), filtered and concentrated under vacuum. The residue was purified by chromatography on silica gel eluting with 0%→25% ethyl acetate/dichloromethane to give the title compound (12.95 g. 44%) as a white solid. Data for the title compound: 1H NMR (360 MHz, CDCl3) δ1.57 (9H, s), 7.26-7.35 (2H, m), 7.53-7.60 (1H, m), 7.89-7.93 (1H, m), 8.17 (1H, s); MS (ES+) m/e 305 [MH]+, 307 [MH]+.

reactant | 3,6-dichloro-4-(1,1-dimethylethyl)pyridazine | 0.097 mol, 20 g | ClC=1N=NC(=CC1C(C)(C)C)Cl | C8H10Cl2N2
reactant | 2-fluorobenzhydrazide | 0.145 mol, 22.6 g | FC1=C(C(=O)NN)C=CC=C1 | C7H7FN2O
reactant | triethylamine hydrochloride | 0.0145 mol, 20 g | Cl.C(C)N(CC)CC
solvent | dioxan | 1.2 l | O1CCOCC1 | C4H8O2
product | 6-Chloro-7-(1,1-dimethylethyl)-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine | 12.95 g, 44% | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2)F)C(C)(C)C | C15H14ClFN4
